US08034812B2
Production of N-{6-[3-(propioloylamino)phenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
To a solution of propiolic acid (27 mg, 0.387 mmol) in tetrahydrofuran (2 mL) and N,N-dimethylformamide (2 mL) was added N,N′-dicyclohexylcarbodiimide (100 mg, 0.484 mmol) under ice-cooling, and the mixture was stirred for 30 min. To the reaction mixture was added N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.323 mmol), and the mixture was stirred under ice-cooling for 4 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→100/0) to give the title compound (24 mg, 21%) as a pale-orange powder.

reactant | propiolic acid | 0.387 mmol, 27 mg | C(C#C)(=O)O | C3H2O2
reactant | N,N′-dicyclohexylcarbodiimide | 0.484 mmol, 100 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.323 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-{6-[3-(propioloylamino)phenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 24 mg, 21% | C(C#C)(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C19H15N5O3
